US07612114B2
[5-Methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (312 mg) and 4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride (1.0 g) according to an analogous synthetic method to Example 110, the title compound (360 mg) was obtained.

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 312 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride | 1.0 g | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1
product | [5-Methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine | 360 mg | COC=1C=CC(=C(C1)NCC1=CC=C(C=C1)OCCN1CCCCC1)C1CC2=CC=C(C=C2CC1)OC | C32H40N2O3
